US05250527
Substituting 2-(4-piperidino-5-bromo-2-pyridylmethylthio)-5-methoxy-(1H)-benzimidazole (3.83 g) for 2-(4-morpholino-3-chloro-2-pyridylmethylthio-5-methoxy-(1H)-benzimidazole and using corresponding molar proportions of the other reagents in the method of Example 4 gave after chromatography (silica gel, chloroform:methanol-ammonia) 2-(4-piperidino-5-bromo-2-pyridylmethylsulphinyl)-5-methoxy-(1H)-benzimidazole, 3.15 g, m.p. 114°-8° C., from ether.

reactant | 2-(4-piperidino-5-bromo-2-pyridylmethylthio)-5-methoxy-(1H)-benzimidazole | 3.83 g | N1(CCCCC1)C1=CC(=NC=C1Br)CSC1=NC2=C(N1)C=CC(=C2)OC | C19H21BrN4OS
reactant | 4-morpholino-3-chloro-2-pyridylmethylthio-5-methoxy-(1H)-benzimidazole | O1CCN(CC1)C1=C(C=CC=2N(CN(C21)Cl)SCC2=NC=CC=C2)OC | C18H21ClN4O2S
product | 2-(4-piperidino-5-bromo-2-pyridylmethylsulphinyl)-5-methoxy-(1H)-benzimidazole | N1(CCCCC1)C1=CC(=NC=C1Br)CS(=O)C1=NC2=C(N1)C=CC(=C2)OC | C19H21BrN4O2S
